US06046205
Step a: 1-(2-Dimethylaminoethyl)-6-nitroindazole
0.11 mol of potassium tert-butylate is added to a solution of 0.11 mol (20 g) of 6-nitroindazole in 400 ml of tetrahydrofuran. After total dissolution, a solution of 0.24 mol (27 g) of 2-chloroethyl-N,N-dimethylamine in 300 ml of toluene is added. The reaction medium is heated at reflux for 3 hours. After cooling, 300 ml of a 10% sodium carbonate solution are added. The mixture is diluted with ethyl acetate and decanted, and the aqueous phase is extracted with dichloromethane. After concentration of the organic phases, the residue is purified by chromatography on silica gel using a dichloromethane/methanol mixture (98/2) as eluant to yield the expected compound.

reactant | potassium tert-butylate | 0.11 mol | CC(C)(C)[O-].[K+]
reactant | 6-nitroindazole | 0.11 mol, 20 g | [N+](=O)([O-])C1=CC=C2C=NNC2=C1 | C7H5N3O2
reactant | 2-chloroethyl-N,N-dimethylamine | 0.24 mol, 27 g | ClCCN(C)C | C4H10ClN
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(2-Dimethylaminoethyl)-6-nitroindazole | CN(CCN1N=CC2=CC=C(C=C12)[N+](=O)[O-])C | C11H14N4O2
